2198-02-10 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2198-2-9**] 02:15 PM
   Patient became acutely short of breath in the afternoon. Seen by
   cardiology who felt that he was volume overloaded, which was confirmed
   by CXR and BNP of >16,000. Tried escalating doses of lasix, but finally
   with diuril/lasix, he put out about 2L. He continues on the bipap
   however, but sats have improved. He is very restless, also required 1mg
   morphine IV x 3. ?confusion overnight.
   Hematuria, likely secondary to trauma foley in the setting of heparin
   gtt.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 850 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2198-2-9**] 10:40 PM
   Other medications:
   Metoprolol
   Xopenex
   Ipratropium
   Diuril/lasix prn
   Morphine prn
   Omeprazole
   Famotidine
   Atorvastatin
   Heparin gtt
   Aspirin
   levofloxacin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-2-10**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 101 (66 - 101) bpm
   BP: 100/65(75) {91/47(58) - 131/83(116)} mmHg
   RR: 21 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  1,174 mL
                                                                     52 mL
   PO:
             TF:
   IVF:
                                                                  1,174 mL
                                                                     52 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                  1,940 mL
   Urine:
                                                                  1,625 mL
                                                                  1,940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -451 mL
                                                                 -1,888 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45/34/181/26/0
   Physical Examination
   General: Alert, oriented, mild distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP to just below earlobe at 45 degrees, no LAD
   Lungs: +crackles at bilateral bases, expiratory wheezing and upper
   airway sounds/gurgling
   CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   221 K/uL
   9.8 g/dL
   181 mg/dL
   1.3 mg/dL
   26 mEq/L
   4.2 mEq/L
   43 mg/dL
   98 mEq/L
   136 mEq/L
   29.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2198-2-9**]  02:28 AM
                             [**2198-2-9**]  10:15 AM
                             [**2198-2-9**]  10:19 AM
                             [**2198-2-9**]  05:03 PM
                             [**2198-2-10**]  02:08 AM
   WBC
   2.8
   6.3
   Hct
   27.7
   29.7
   29.3
   Plt
   173
   221
   Cr
   0.8
   1.3
   TropT
   0.23
   0.26
   0.46
   TCO2
   24
   Glucose
   246
   181
   Other labs: PT / PTT / INR:15.4/38.0/1.4, CK / CKMB /
   Troponin-T:50/4/0.46, Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC, and acute
 RISK FOR INJURY
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, ASPIRATION (pneumonitis)
   81 yo m with history of GERD s/p fundoplication, HTN, Charcot [**Doctor First Name 16**]
   Tooth disease with acute on chronic aspiration pneumonitis and possible
   pna, now with acute on chronic systolic HF.
   # Respiratory Distress:  there is likely a component of both aspiration
   pneumonitis, and possible pna. Additionally, he has evidence of
   pulmonary edema on CXR with a BNP of >16,000. Tracheomalacia is also
   being considered and was to be worked up as an outpatient. There very
   well may be a component of tracheomalacia contributing, but the patient
   continued to wheeze despite positive airway pressure.
   -- cont Levaquin
   -- Atrovent/xopenex nebs q6h
   -- diuresis with diuril/lasix with goal -2L
   -- BiPAP as needed
   -- morphine prn
   -- trend fever, WBC curve
   -- increase home omeprazole to 40mg daily and added famotidine at night
   -- CT trachea when stable
   -- BAS on monday
   # Atrial Fibrillation:  Patient with no known history of atrial
   fibrillation.  Episode began during acute SOB episode in the ED. Dilt
   gtt was weaned off. Trops are elevated by CK
s flat, likely in the
   setting of rate and volume overload. EF=30%. Per cardiology, would like
   to try metoprolol rather than PO dilt, so this was switched today and
   will need to be titrated up. TSH 0.94. In and out of sinus rhythm
   overnight.
   -- continue to trend trop
   -- BB
   -- continue statin, aspirin, heparin gtt
   # GERD: 40mg [**Hospital1 **] and added famotidine. Dr. [**First Name (STitle) 3827**] following. BAS on
   Monday.
   .
   # HTN: per Dr.[**Doctor Last Name 7909**] note one month ago, Lisinopril stopped. will
   monitor BPs while in house.
   .
   # FEN: No IVF, replete electrolytes, regular cardiac diet as tolerated
   with aspiration precautions
   .
   # Prophylaxis: heparin gtt, PPI, bowel regimen
   .
   # Access: peripherals
   .
   # Code: DNR/DNI
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:  insulin ss
   Lines:
   20 Gauge - [**2198-2-9**] 01:39 AM
   18 Gauge - [**2198-2-9**] 01:40 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU

2198-02-11 07:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   The pt diuresed aggressively after receiving lasix 80mg IV and
   Chlorothiazide 500 mg IV X1 yesterday am.
   HR converted to NSR, rate controlled now on metoprolol (dilt
   discontinued)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2198-2-10**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-2-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.3
   HR: 75 (66 - 114) bpm
   BP: 113/63(73) {94/39(50) - 133/70(87)} mmHg
   RR: 15 (12 - 36) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    656 mL
                                                                    364 mL
   PO:
             TF:
   IVF:
                                                                    656 mL
                                                                    364 mL
   Blood products:
   Total out:
                                                                  4,965 mL
                                                                    740 mL
   Urine:
                                                                  4,965 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,309 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///32/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   182 K/uL
   9.7 g/dL
   159 mg/dL
   1.2 mg/dL
   32 mEq/L
   4.3 mEq/L
   40 mg/dL
   102 mEq/L
   142 mEq/L
   28.2 %
   3.5 K/uL
        [image002.jpg]
                             [**2198-2-9**]  02:28 AM
                             [**2198-2-9**]  10:15 AM
                             [**2198-2-9**]  10:19 AM
                             [**2198-2-9**]  05:03 PM
                             [**2198-2-10**]  02:08 AM
                             [**2198-2-10**]  10:03 AM
                             [**2198-2-10**]  06:31 PM
                             [**2198-2-11**]  05:35 AM
   WBC
   2.8
   6.3
   3.5
   Hct
   27.7
   29.7
   29.3
   28.2
   Plt
   173
   221
   182
   Cr
   0.8
   1.3
   1.2
   1.2
   TropT
   0.23
   0.26
   0.46
   0.48
   0.57
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 7981**]59
   Other labs: PT / PTT / INR:17.2/73.6/1.6, CK / CKMB /
   Troponin-T:49/4/0.57, Albumin:3.5 g/dL, Ca++:10.1 mg/dL, Mg++:3.1
   mg/dL, PO4:3.5 mg/dL
   Imaging: CXR [**2198-2-10**] FINDINGS: Allowing for differences in technique,
   there is no significant
   interval change. There is no new airspace consolidation. Prominence of
   the
   interstitial markings remains, which may represent volume overload.
   Cardiomediastinal silhouette and osseous and soft tissue structures are
   stable.
   IMPRESSION: Mild volume overload, not significantly changed.
   Microbiology: [**6-12**] 3:52 pm SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2198-2-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
      RESPIRATORY CULTURE (Preliminary):    SPARSE GROWTH OROPHARYNGEAL
   FLORA.
   /[**6-12**] 3:54 am URINE      Source: Catheter.
                               **FINAL REPORT [**2198-2-10**]**
      URINE CULTURE (Final [**2198-2-10**]):    NO GROWTH.
   [**2198-2-8**] - Blood Cx - NGTD
   Assessment and Plan
   81 yo m with history of GERD s/p fundoplication, HTN, Charcot [**Doctor First Name 16**]
   Tooth disease with acute on chronic aspiration pneumonitis and possible
   pna, now with acute on chronic systolic HF.
   # Respiratory Distress:  there is likely a component of both aspiration
   pneumonitis, and possible pna. Additionally, he has evidence of
   pulmonary edema on CXR with a BNP of >16,000. Tracheomalacia is also
   being considered and was to be worked up as an outpatient. There very
   well may be a component of tracheomalacia contributing, but the patient
   continued to wheeze despite positive airway pressure.
   -- cont Levaquin
   -- Atrovent/xopenex nebs q6h
   -- diuresis with diuril/lasix with goal -2L
   -- BiPAP as needed
   -- morphine prn
   -- trend fever, WBC curve
   -- increase home omeprazole to 40mg daily and added famotidine at night
   -- CT trachea when stable
   -- BAS on monday
   # Atrial Fibrillation:  Patient with no known history of atrial
   fibrillation.  Episode began during acute SOB episode in the ED. Dilt
   gtt was weaned off. Trops are elevated by CK
s flat, likely in the
   setting of rate and volume overload. EF=30%. Per cardiology, would like
   to try metoprolol rather than PO dilt, so this was switched today and
   will need to be titrated up. TSH 0.94. In and out of sinus rhythm
   overnight.
   -- continue to trend trop
   -- BB
   -- continue statin, aspirin, heparin gtt
   # GERD: 40mg [**Hospital1 **] and added famotidine. Dr. [**First Name (STitle) 3827**] following. BAS on
   Monday.
   .
   # HTN: per Dr.[**Doctor Last Name 7909**] note one month ago, Lisinopril stopped. will
   monitor BPs while in house.
   .
   # FEN: No IVF, replete electrolytes, regular cardiac diet as tolerated
   with aspiration precautions
   .
   # Prophylaxis: heparin gtt, PPI, bowel regimen
   .
   # Access: peripherals
   .
   # Code: DNR/DNI
   .
   # Communication: Patient
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-2-9**] 01:39 AM
   18 Gauge - [**2198-2-9**] 01:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2198-02-12 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Spoke with covering cardiology fellow, unlikely to get c.cath until
   stable from respiratory standpoint.  Should speak with consult fellow
   again today,possibly c.cath tomorrow.
   Patient autodiuresed well -800cc by Midnight.
   Heparin gtt stopped,transitioned to Lovenox.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2198-2-11**] 08:00 AM
   Enoxaparin (Lovenox) - [**2198-2-11**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-2-12**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.1
C (95.1
   HR: 85 (64 - 85) bpm
   BP: 122/61(75) {89/45(56) - 136/81(99)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    822 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                    442 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    415 mL
   Urine:
                                                                  1,865 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,043 mL
                                                                   -415 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   188 K/uL
   10.1 g/dL
   135 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   29 mg/dL
   103 mEq/L
   137 mEq/L
   28.6 %
   3.1 K/uL
        [image002.jpg]
                             [**2198-2-9**]  02:28 AM
                             [**2198-2-9**]  10:15 AM
                             [**2198-2-9**]  10:19 AM
                             [**2198-2-9**]  05:03 PM
                             [**2198-2-10**]  02:08 AM
                             [**2198-2-10**]  10:03 AM
                             [**2198-2-10**]  06:31 PM
                             [**2198-2-11**]  05:35 AM
                             [**2198-2-12**]  04:18 AM
   WBC
   2.8
   6.3
   3.5
   3.1
   Hct
   27.7
   29.7
   29.3
   28.2
   28.6
   Plt
   173
   221
   182
   188
   Cr
   0.8
   1.3
   1.2
   1.2
   0.8
   TropT
   0.23
   0.26
   0.46
   0.48
   0.57
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 7981**]59
   135
   Other labs: PT / PTT / INR:17.2/37.8/1.6, CK / CKMB /
   Troponin-T:49/4/0.57, Albumin:3.5 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
   81 yo m with history of GERD s/p fundoplication, HTN, Charcot [**Doctor Last Name **]
   Tooth disease with acute on chronic aspiration pneumonitis and possible
   pna, now with acute on chronic systolic HF.
    # Respiratory Distress:  Currently improved.  Patient has signs of
   acute on chronic aspiration on CT chest, with concern for PNA given
   consolidation on CT scan. Aspiration is likely [**2-5**] to known GERD.  He
   also has evidence of pulmonary edema on CXR with a BNP of >16,000 so
   CHF also a contributer. Tracheomalacia is being worked up as an
   outpatient.  Patient has required intermittent BIPAP initially but has
   now been off of BIPAP for > 24hrs.
   -- cont Levaquin to complete 7 day course
   -- Atrovent/xopenex nebs q6h
   -- hold diuresis as patient is dry on exam today, diurese PRN
   -- cont omeprazole to 40mg [**Hospital1 **] and famotidine at night
   -- CT trachea when stable
   -- BAS today
   # NSTEMI:  Patient had concern for NSTEMI on admission with T wave
   flattening I-III. T wave inversions V1-V5.  qwaves V1-V2 along with
   Troponin elevation.  Cardiology consulted and would like to perform
   cardiac cath once respiratory status stable, possbily tomorrow.
   -- cont lovenox
   -- cont ASA. Statin
   -- BetaBlocker has been held [**2-5**] to respiratory
   distress/wheezing/bronchospasm on admission
   # Atrial Fibrillation:  Patient with no history of atrial fibrillation.
   Patient is currently on Lovenox will need transition to coumadin once
   cardiac and GI issues are stabilized..   Atrial fibrillation likely due
   to pnemonitis and possibley ACS given troponin elevation and focal
   hypokinesis on ECHO.
   -- cont BB
   -- continue statin, aspirin
   -- cont lovenox
   -- bridge to coumadin once cardiac/GI procedures have been performed
    # GERD: 40mg [**Hospital1 **] and add famotidine. Dr. [**First Name (STitle) 3827**] following. BAS today.
   Dr. [**First Name (STitle) 3827**] would like to perform endoscopy after cardiac issues have
   resolved.
   # HTN: per Dr.[**Doctor Last Name 7909**] note one month ago, Lisinopril stopped. will
   monitor BPs while in house.
   # FEN: No IVF, replete electrolytes, regular cardiac diet, nectar
   pre-thickened liquids as tolerated with aspiration precautions
   # Prophylaxis:  Lovenox, PPI, bowel regimen
   # Access: PIV
   # Code: DNR/DNI
   # Communication: Patient
   # Disposition: pending above
   ------ Protected Section ------
   Physical Exam:
   Gen: sitting comfortably in chair, NAD, no use of accesory muscles
   Neck: JVD not appreciated, however patient sitting at 90 degrees in
   chair
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: +crackles/ronchi throughout both lung fields, +mild expiratory
   wheezing
   ABD: +BS, NT/ND
   EXT: no c/c/e
   ------ Protected Section Addendum Entered By:[**Name (NI) 4238**] [**Last Name (NamePattern1) 4239**], MD
   on:[**2198-2-12**] 11:57 ------

2198-02-12 09:45:00 Physician Attending Progress Note
Chief Complaint: NSTEMI, GERD, Asp pna, ? TBM
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off bipap x > 24 hrs.
   autodiuresed well.
   Heparin switched to lovenox
   CBI for hematuria
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2198-2-11**] 02:30 PM
   Omeprazole (Prilosec) - [**2198-2-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-2-12**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.4
   HR: 72 (66 - 85) bpm
   BP: 102/48(61) {89/45(56) - 136/81(99)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    822 mL
                  PO:
                                                                    380 mL
                  TF:
   IVF:
                                                                    442 mL
   Blood products:
   Total out:
                                                                  1,865 mL
                                                                    655 mL
   Urine:
                                                                  1,865 mL
                                                                    655 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,043 mL
                                                                   -655 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   188 K/uL
   135 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.7 mEq/L
   29 mg/dL
   103 mEq/L
   137 mEq/L
   28.6 %
   3.1 K/uL
        [image002.jpg]
                             [**2198-2-9**]  02:28 AM
                             [**2198-2-9**]  10:15 AM
                             [**2198-2-9**]  10:19 AM
                             [**2198-2-9**]  05:03 PM
                             [**2198-2-10**]  02:08 AM
                             [**2198-2-10**]  10:03 AM
                             [**2198-2-10**]  06:31 PM
                             [**2198-2-11**]  05:35 AM
                             [**2198-2-12**]  04:18 AM
   WBC
   2.8
   6.3
   3.5
   3.1
   Hct
   27.7
   29.7
   29.3
   28.2
   28.6
   Plt
   173
   221
   182
   188
   Cr
   0.8
   1.3
   1.2
   1.2
   0.8
   TropT
   0.23
   0.26
   0.46
   0.48
   0.57
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 7981**]59
   135
   Other labs: PT / PTT / INR:17.2/37.8/1.6, CK / CKMB /
   Troponin-T:49/4/0.57, Albumin:3.5 g/dL, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.3 mg/dL
   Assessment and Plan
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RISK FOR INJURY
 ATRIAL FIBRILLATION (AFIB)
 PNEUMONIA, ASPIRATION
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, JVD 8 cm improved
   Cardiovascular: S1S2 reg, no murmers
   Peripheral Vascular: All present
   Respiratory / Chest: Polyphonic wheezes and ronchi, musical chest
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: AAOx 3
   81 yom with history of GERD s/p fundoplication, HTN, Charcot [**Doctor First Name 16**] Tooth
   disease who presents with acute on chronic GERD and pneumonia, NSTEMI,
   pulmonary edema from CHF, aflutter converted to sisnus with cardizem on
   anticoagulation, ? TBM. Significant improvement with diuresis and
   antibiotics. Off bipap. Hematuria developed in house.
   Resp: Still very ronchorous from secretions, acapella, chest PT,
   Levofloxacin x 7, nebs. Needs dynamic airway CT b4 discharge to look
   for TBM. Off O2.
   Cards: full anticoagulation with lovenox for aflutter, NSTEMI. t/b with
   cards reg cath, since he may have reversible disease. Continue gentle
   diuresis. On ASA, metoprolol
   GI: advance feeds slowly, needs Ba swallow for GERD eval. Ppi [**Hospital1 **], h2
   blocker qhs, aspiration precautions. Needs EGD, Dr. [**First Name (STitle) 3827**] aware.
   GU: CBI for hematuria, urology consult
   Rest per resident note
   ICU Care
   Nutrition:
   Comments: thick liquids and po
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2198-2-12**] 04:57 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:  35